US06777428B1
4-[3-(2-trifluoromethoxybenzamidyl)benzoyl]-1-methylpiperidine
Beginning with 4-[3-aminobenzoyl]-1-methylpiperidine (25 mg, 0.115 mmol) and 2-(trifluoromethoxy)benzoyl chloride (37 μL, 0.229 mmol) and mixing for 24 h, 49.8 mg (>100%) of the title compound were recovered.

reactant | 4-[3-aminobenzoyl]-1-methylpiperidine | 0.115 mmol, 25 mg | NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1 | C13H18N2O
reactant | 2-(trifluoromethoxy)benzoyl chloride | 0.229 mmol, 37 μL | FC(OC1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O2
product | 4-[3-(2-trifluoromethoxybenzamidyl)benzoyl]-1-methylpiperidine | FC(OC1=C(C(=O)NC=2C=C(C(=O)C3CCN(CC3)C)C=CC2)C=CC=C1)(F)F | C21H21F3N2O3
